US08895549B2
To a slurry of N-(8-{[(2R)-2-hydroxy-3-(pyrrolidin-1-yl)propyl]oxy}-7-methoxy-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl)amine (0.250 g, 0.70 mmol) and nicotinic acid (0.107 g, 0.87 mmol, 1.3 equiv.) in DMF (10 mL) was added PyBOP (0.452 g, 0.87 mmol, 1.3 equiv.) followed by diisopropylethylamine (0.48 mL, 2.78 mmol, 4.0 equiv.). The resulting mixture was stirred at room temperature. After a few hours the mixture turned to a clear solution. The resulting solution was stirred at room temperature for 24 h, then was concentrated under reduced pressure. The residue was separated between water (25 mL) and a 4:1 CH2Cl2/isopropanol solution (50 mL). The resulting organic phase was washed with a saturated sodium bicarbonate solution, dried (anh. sodium sulfate) and concentrated under reduced pressure. The resulting material (0.588 g) purified using MPLC to afford N-(8-{[(2R)-2-hydroxy-3-(pyrrolidin-1-yl)propyl]oxy}-7-methoxy-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl)pyridine-3-carboxamide (0.16 g, 50%): HPLC ret. time 1.00 min.; 1H NMR (DMSO-d6+1 drop TFA-d) δ 1.83-1.93 (m, 2H), 1.93-2.05 (m, 2H), 3.04-3.15 (m, 2H), 3.29-3.34 (m, 2H), 3.53-3.62 (m, 2H), 4.03 (s, 3H), 4.20-4.32 (m, 5H), 4.53-4.60 (m, 2H), 7.48 (d, J=9.1 Hz), 7.88 (dd, J=5.6, 8.1 Hz, 1H), 8.03 (d, J=9.1 Hz, 1H), 8.84, (br d, J=8.1 Hz, 1H), 8.94 (dd, J=1.5, 5.3 Hz, 1H), 9.47 (d, J=1.5 Hz, 1H); mass spectrum m/z 465 ((M+1)+, 17%).

reactant | N-(8-{[(2R)-2-hydroxy-3-(pyrrolidin-1-yl)propyl]oxy}-7-methoxy-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl)amine | 0.70 mmol, 0.250 g | O[C@@H](COC=1C=CC=2C=3N(C(=NC2C1OC)N)CCN3)CN3CCCC3 | C18H25N5O3
reactant | nicotinic acid | 0.87 mmol, 0.107 g, 1.3 equiv. | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | PyBOP | 0.87 mmol, 0.452 g, 1.3 equiv. | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 2.78 mmol, 0.48 mL, 4.0 equiv. | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(8-{[(2R)-2-hydroxy-3-(pyrrolidin-1-yl)propyl]oxy}-7-methoxy-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl)pyridine-3-carboxamide | 0.16 g, 50% | O[C@@H](COC=1C=CC=2C=3N(C(=NC2C1OC)NC(=O)C=1C=NC=CC1)CCN3)CN3CCCC3 | C24H28N6O4
